US06265349B1
Preparation of 3-(5-amino-2-chloro-4-hydroxyphenyl)-1-methyl-6-trifluoromethyl-2(1H)-pyridone (Compound No. 1-279)
8.0 g (23 mmol) of 3-(2-chloro-4-hydroxy-5-nitrophenyl)-1-methyl-6-trifluoromethyl-2(1H)-pyridone and 8.2 g (69 mmol) of tin were added to 100 ml of ethanol, and 5 ml of concentrated hydrochloric acid was added thereto under stirring at room temperature, followed by stirring for 1 hour. After completion of the reaction, excess ethanol was distilled off, and the residue was neutralized with a saturated sodium hydrogencarbonate aqueous solution and then extracted with ethyl acetate. The organic layer was washed with water and dried over anhydrous magnesium sulfate. The organic layer was distilled off under reduced pressure to obtain 6.5 g (yield: 90%) of the desired product. 1H-NMR (300 MHz, CDCl3) δ value: 3.74(3H,s), 6.83(1H,d), 7.23(1H,d), 7.30(1H,d), 7.57(1H,d)ppm.

reactant | 3-(2-chloro-4-hydroxy-5-nitrophenyl)-1-methyl-6-trifluoromethyl-2(1H)-pyridone | 23 mmol, 8.0 g | ClC1=C(C=C(C(=C1)O)[N+](=O)[O-])C=1C(N(C(=CC1)C(F)(F)F)C)=O | C13H8ClF3N2O4
reactant | tin | 69 mmol, 8.2 g | [Sn] | Sn
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-(5-amino-2-chloro-4-hydroxyphenyl)-1-methyl-6-trifluoromethyl-2(1H)-pyridone | 6.5 g, yield: 90% | NC=1C(=CC(=C(C1)C=1C(N(C(=CC1)C(F)(F)F)C)=O)Cl)O | C13H10ClF3N2O2
